US08349880B2
Step C (4): Methanolic ammonia (1.0 M, 100 mL, 100 mmol) was added to a flask charged with 1-(2-fluoro-4-isothiocyanatophenyl)-5-methyl-1H-1,2,4-triazole (3.18 g, 13.6 mmol) in a ice-water bath. After the addition was complete, the resulting slurry was stirred for 10 min and then allowed to warm to rt. After 24 h, the reaction mixture was concentrated in vacuo. The resulting solid was dried under high vacuum to afford 1-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea (3.21 g, 94% yield) as an off-white solid. LC-MS (M+H)+ 252.1. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.06 (s, 1 H), 7.93 (dd, J=12.8, 2.1 Hz, 1 H), 7.54 (t, J=8.7 Hz, 1 H), 7.37 (dd, J=8.5, 1.8 Hz, 1 H), 2.32 (s, 3 H)

reactant | ammonia | 100 mmol, 1.0 M, 100 mL | N | H3N
reactant | 1-(2-fluoro-4-isothiocyanatophenyl)-5-methyl-1H-1,2,4-triazole | 13.6 mmol, 3.18 g | FC1=C(C=CC(=C1)N=C=S)N1N=CN=C1C | C10H7FN4S
product | 1-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea | 3.21 g, 94% yield | FC=1C=C(C=CC1N1N=CN=C1C)NC(=S)N | C10H10FN5S
